US04053656
4-Acetylthio-4-methylpentan-2-one (17 g, prepared as described by R. Brown, W. E. Jones and A. R. Pinder, J. Chem. Soc. 1951, 2123), was dissolved in 25 ml of methanol. A solution of 1.945 g of NaBH4 and of 0.1 g of NaOCH3 in 25 ml of methanol was added dropwise through a dropping funnel, keeping the temperature of the reaction mixture between 10° and 25° C. by occasionally cooling with ice water. After standing overnight the reaction mixture was diluted with a same volume of water and extracted twice with n-pentane. The pentane extract was washed neutral with an aqueous solution of sodium chloride, dried over sodium sulphate and concentrated. Distillation of the residue yielded 19 g (52.5%) of 4-mercapto-4-methylpent-2-yl acetate, b.p. 37°-39° C./1 mm, nD20 1.4530.

reactant | 4-Acetylthio-4-methylpentan-2-one | C(C)(=O)SC(CC(C)=O)(C)C | C8H14O2S
reactant | NaBH4 | 1.945 g | [BH4-].[Na+]
reactant | NaOCH3 | 0.1 g | O([Na])C
reactant | methanol | 25 ml | CO | CH4O
reactant | methanol | 25 ml | CO | CH4O
solvent | water | O | H2O
product | 4-mercapto-4-methylpent-2-yl acetate | 19 g, 52.5% | C(C)(=O)OC(C)CC(C)(C)S | C8H16O2S
